US05037827
(1) Synthesis of (3,4,5-trimethoxy)phenylacetonitrile
3,4,5-trimethoxy benzyl chloride 7.0 g and sodium cyanide 6.3 g were dissolved into 50 ml of N,N-dimethylformamide and they were then stirred at 80° C. for 45 minutes. The temperature of the reactive liquid was then lowered down to the room temperature, 200 ml of water was added thereto and then extraction was made thrice by means of 100 of ethyl acetate.

reactant | 3,4,5-trimethoxy benzyl chloride | 7.0 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | sodium cyanide | 6.3 g | [C-]#N.[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | (3,4,5-trimethoxy)phenylacetonitrile | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
